US04195023
Ethyl 5-(chloromethyl)-2-furoate (0.1 mole) is refluxed with diethylamine (0.25 mole) in 40 ml of benzene for one hour. The benzene solution is filtered off and washed with water. The organic layer is separated and dried over magnesium sulfate. The magnesium sulfate is removed by filtration and the organics are evaporated to dryness. The residue is distilled to give a pure fraction of ethyl 5-(N,N-diethylaminomethyl)-2-furoate boiling at 97°-106° C. at 0.1 mm of Hg.

reactant | Ethyl 5-(chloromethyl)-2-furoate | 0.1 mole | ClCC1=CC=C(O1)C(=O)OCC | C8H9ClO3
reactant | diethylamine | 0.25 mole | C(C)NCC | C4H11N
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | ethyl 5-(N,N-diethylaminomethyl)-2-furoate | C(C)N(CC)CC1=CC=C(O1)C(=O)OCC | C12H19NO3
